US09079866B2
N-[3′-Fluoro-4′-(5H-pyrrolo[2,3-b]pyrazin-2-yl)biphenyl-2-yl]methanesulfonamide
To a mixture of 2-(4-bromo-2-fluorophenyl)-5H-pyrrolo[2,3-b]pyrazine (50 mg, 0.17 mmol), N-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-methane-sulfonamide (61 mg, 0.21 mmol) and Pd(dppf)Cl2.CH2Cl2 (6.7 mg, 0.009 mmol) in a microwave vial were added acetonitrile (2.0 mL) and sat. NaHCO3 (2.0 mL). The vial was sparged with nitrogen for 5 min then heated at 110° Celsius for 90 min via microwave irradiation. After cooling to rt, the reaction mixture was diluted with ethyl acetate (50 mL), washed with water (25 mL) and brine (25 mL), dried (Na2SO4) and concentrated to dryness. The crude product was purified by HPLC giving the title compound (45 mg, 69%). MS (ESI): mass calcd. for C19H15FN4O2S, 382.09; m/z found, 383.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 10.38 (s, 1H), 8.78 (d, J=2.7, 1H), 8.20-8.12 (m, 1H), 7.71-7.64 (m, 2H), 7.48-7.39 (m, 1H), 7.37-7.31 (m, 2H), 7.28-7.21 (m, 2H), 6.91 (s, 1H), 6.81-6.75 (m, 1H), 2.93 (s, 3H).

reactant | 2-(4-bromo-2-fluorophenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.17 mmol, 50 mg | BrC1=CC(=C(C=C1)C=1N=C2C(=NC1)NC=C2)F | C12H7BrFN3
reactant | N-(2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-methane-sulfonamide | 0.21 mmol, 61 mg | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NS(=O)(=O)C)C | C13H20BNO4S
reactant | CH2Cl2 | 0.009 mmol, 6.7 mg | C(Cl)Cl | CH2Cl2
reactant | NaHCO3 | 2.0 mL | C(=O)(O)[O-].[Na+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | N-[3′-Fluoro-4′-(5H-pyrrolo[2,3-b]pyrazin-2-yl)biphenyl-2-yl]methanesulfonamide | 45 mg, 69% | FC=1C=C(C=CC1C=1N=C2C(=NC1)NC=C2)C2=C(C=CC=C2)NS(=O)(=O)C | C19H15FN4O2S
